US08012956B2
A mixture of ethyl 3-[(trans-4-aminocyclohexyl)amino]-4-cyanobenzoate (0.490 g, 0.96 mmol), potassium carbonate (0.66 g, 4.78 mmol) and 1,5 dibromopentane (0.130 mL, 0.96 mmol) was stirred in dimethylformamide (10 mL) at room temperature for 48 h. Water (20 mL) was then added to the mixture, and the water phase was extracted with dichloromethane (2×30 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography using methanol in dichloromethane (5% to 10%) to afford ethyl 4-cyano-3-[(trans-4-piperidin-1-ylcyclohexyl)amino]benzoate (0.145 g, 43% yield). MS (EI) for C21H29N3O2: 356 (MH+).

reactant | ethyl 3-[(trans-4-aminocyclohexyl)amino]-4-cyanobenzoate | 0.96 mmol, 0.490 g | N[C@@H]1CC[C@H](CC1)NC=1C=C(C(=O)OCC)C=CC1C#N | C16H21N3O2
reactant | potassium carbonate | 4.78 mmol, 0.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5 dibromopentane | 0.96 mmol, 0.130 mL | BrCCCCCBr | C5H10Br2
reactant | Water | 20 mL | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl 4-cyano-3-[(trans-4-piperidin-1-ylcyclohexyl)amino]benzoate | 0.145 g, 43% yield | C(#N)C1=C(C=C(C(=O)OCC)C=C1)N[C@@H]1CC[C@H](CC1)N1CCCCC1 | C21H29N3O2
